US08980909B2
to a solution of H2N-OTHP (1.0 g, 8.54 mmol) and triethylamine (2.46 g, 24.39 mmol) in CH2Cl2 (20 mL) was added a solution of 7-bromoheptanoyl chloride (1.84 g, 8.13 mmol) obtained above in CH2Cl2 (10 mL) dropwise cooling in an ice-water bath. The mixture was stirred at room temperature for 1 h. It was diluted with EtOAc and washed with aqueous saturated NaHCO3, water, and brine, before being dried over MgSO4. Filtration and concentration in vacuo and purification by silica gel flash chromatography (n-hexane/EtOAc=3/1) gave 1.3 g (52%) of 7-bromo-N-(tetrahydro-2H-pyran-2-yloxy)-heptanamide as yellow solid.

reactant | H2N-OTHP | 8.54 mmol, 1.0 g | NOC1OCCCC1 | C5H11NO2
reactant | triethylamine | 24.39 mmol, 2.46 g | C(C)N(CC)CC | C6H15N
reactant | 7-bromoheptanoyl chloride | 8.13 mmol, 1.84 g | BrCCCCCCC(=O)Cl | C7H12BrClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-bromo-N-(tetrahydro-2H-pyran-2-yloxy)-heptanamide | 1.3 g, 52% | BrCCCCCCC(=O)NOC1OCCCC1 | C12H22BrNO3
